US07081461B1
An analogous reaction to that described in example 42b, but starting with 2-(hydroxymethyl)pyridine (3.50 g, 36 mmol) and 3,4-difluoronitrobenzene (5.00 g, 31.4 mmol), yielded 2-((2-pyridyl)methoxy)-5-nitrofluorobenzene (4.50 g, 58% yield) as a yellow solid. d) An analogous reaction to that described in example 42c, but starting with 2-((2-pyridyl)methoxy)-5-nitrofluorobenzene (4.5 g, 18.1 mmol), yielded 3-fluoro-4-((2-pyridyl)methoxy)aniline (1.86 g, 47% yield) as a yellow solid.

reactant | 2-(hydroxymethyl)pyridine | 36 mmol, 3.50 g | OCC1=NC=CC=C1 | C6H7NO
reactant | 3,4-difluoronitrobenzene | 31.4 mmol, 5.00 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
product | 2-((2-pyridyl)methoxy)-5-nitrofluorobenzene | 4.50 g, 58% yield | N1=C(C=CC=C1)COC1=C(C=C(C=C1)[N+](=O)[O-])F | C12H9FN2O3
